US07521451B2
4,5-dimethylphthalic anhydride (2.0 g, 11 mmol) and 3-aminopyridine (1.0 g, 11 mmol) were heated under reflux in acetic acid (30 ml) for 1.5 hrs. After standing to cool, water was added thereto, the precipitated crystals were collected by filtration, washed with water, followed by drying to give 2.3 g of 5,6-dimethyl-2-(3-pyridyl)isoindolin-1,3-dione.

reactant | 4,5-dimethylphthalic anhydride | 11 mmol, 2.0 g | CC=1C=C2C(C(=O)OC2=O)=CC1C | C10H8O3
reactant | 3-aminopyridine | 11 mmol, 1.0 g | NC=1C=NC=CC1 | C5H6N2
reactant | water | O | H2O
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
product | 5,6-dimethyl-2-(3-pyridyl)isoindolin-1,3-dione | 2.3 g | CC=1C=C2C(N(C(C2=CC1C)=O)C=1C=NC=CC1)=O | C15H12N2O2
